US09447035B2
To a solution of (S)-2-[[1-(2-azidoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid (6.28 g, 12.11 mmol) in THF (91 mL) was added a solution of trimethylphosphine in THF (48.5 mL, 48.46 mmol, 1.0M) at 0° C. It was a clear solution in the beginning and after 30 min some precipitate was formed and this mixture was stirred for overnight at which time TLC analysis of the mixture indicated the absence of starting material. Then, 10 equiv. of water (120 mmol, 2.16 mL) was added and the mixture was stirred for 2 h at room temperature. The solvent was removed under vacuum and the residue was azeotrophed two times with toluene to give a pasty material which was purified using HPLC to obtain 4.57 g (77% yield) of (S)-2-[[1-(2-aminoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid as an amorphous white solid. ES(+)-HRMS m/e calcd. for C24H27Cl2N3O4 (M+H)+ 492.1452, obsd. 492.1451.

reactant | (S)-2-[[1-(2-azidoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid | 12.11 mmol, 6.28 g | N(=[N+]=[N-])CCC1(CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C24H25Cl2N5O4
reactant | trimethylphosphine | CP(C)C | C3H9P
reactant | water | 120 mmol, 2.16 mL, 10 equiv. | O | H2O
solvent | THF | 91 mL | C1CCOC1 | C4H8O
solvent | THF | 48.46 mmol, 1.0M, 48.5 mL | C1CCOC1 | C4H8O
product | (S)-2-[[1-(2-aminoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid | 4.57 g, 77% yield | NCCC1(CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C24H27Cl2N3O4
